US07074800B1
3-Cyano-7-methoxyquinoline (380 mg, 2.1 mmol) was suspended in benzene (10 ml), aluminium trichloride (826 mg, 6.2 mmol) was added and the mixture heated at reflux for 30 minutes. More aluminium trichloride (275 mg, 2.1 mmol) was added and the mixture refluxed for a further 2 hours. The solvent was evaporated, the dark green solid was added to ice and extracted with ethyl acetate. The organic phase was washed with brine, dried (MgSO4) and evaporated. The solid was found to contain some aluminium salts which were removed as follows. The solid was dissolved in dichloromethane (200 ml) was stirred vigorously with a saturated sodium hydrogen carbonate solution for 1 hour. The product was collected by filtration of the aqueous phase and dried over phosphorus pentoxide under vacuum to give 3-cyano-7-hydroxyquinoline (238 mg, 68%).

reactant | 3-Cyano-7-methoxyquinoline | 2.1 mmol, 380 mg | C(#N)C=1C=NC2=CC(=CC=C2C1)OC | C11H8N2O
reactant | aluminium trichloride | 6.2 mmol, 826 mg | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | aluminium trichloride | 2.1 mmol, 275 mg | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 3-cyano-7-hydroxyquinoline | 238 mg, 68% | C(#N)C=1C=NC2=CC(=CC=C2C1)O | C10H6N2O
